US09125410B2
A magnetically stirred mixture of acid 4-chloro-2-methylbenzoic acid (50 g, 0.29 mol), dichloromethane (200 mL), and 0.5 mL DMF was cooled in an ice-bath. The cooler was connected to a gas absorption trap. Oxalyl chloride (44.5 g, 0.35 mmol) was added dropwise in 1 h. The mixture was stirred at r.t. overnight during which time all solid dissolved. The solution was concentrated in vacuo and stripped with dichloromethane to remove excess oxalyl chloride. The residue was taken in THF (200 mL) and mechanically stirred in an ice-water bath. Aqueous 25% ammonia (100 mL) was added in 15 min, which resulted in the formation of a precipitate. The THF was removed with the rotavap and extra water (100 mL) was added. The suspension was stirred at r.t. overnight. The solid was collected by filtration and dried in vacuo to give 2-methyl-4-chlorobenzamide (43.7 g, yield 89%) that was used without purification in the next step.

reactant | 4-chloro-2-methylbenzoic acid | 0.29 mol, 50 g | ClC1=CC(=C(C(=O)O)C=C1)C | C8H7ClO2
reactant | dichloromethane | 200 mL | ClCCl | CH2Cl2
reactant | Oxalyl chloride | 0.35 mmol, 44.5 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 2-methyl-4-chlorobenzamide | 43.7 g, yield 89% | CC1=C(C(=O)N)C=CC(=C1)Cl | C8H8ClNO
